Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
paracentesis

 
History of Present Illness:
___ G2P1 with history of infertility s/p egg retrieval ___
and implantation ___ presents with worsening abdominal pain. 

She reports that after undergoing implantation last week she had
abdominal pain. The pain worsened daily. She describes it as a
pressure and bloating sensation in her abdomen. She has had
decreased appetite and feels full when eating. She denies
nausea/vomiting, fevers, chills. No dysuria. 

Last night, endorses difficulty breathing and lying flat
therefore presented to the ED for further evaluation. 

On arrival, vital signs notable for tachycardia to 145. She
received 500cc IVF bolus and HR improved to 100. Bedside
ultrasound by ED team demonstrated free fluid within pelvis and
abdomen. Labs and formal imaging were ordered and OB/GYN was
consulted for further management. 

Patient reports feeling difficulty taking deep breaths in. She
was given 3 liters O2 with symptomatic improvement. Her O2 was
subsequently weaned and she continued to sat 97-99%. She 
received
a dose of Tylenol and feels like the pressure has improved
slightly. 

Of note, patient reports a similar event after her first IVF
cycle ___ years ago. She underwent two paracentesis with
improvement. 

 
Physical Exam:
PHYSICAL EXAM AT DISCHARGE
==========================
General: NAD, comfortable
CV: RRR
Lungs: CTAB, nwob
Abdomen: minimally distended, non-tender, no rebound or 
guarding. paracentesis site dressed with gauze under 
bioocclusive in left lateral abdomen.
Extremities: no edema, no TTP

 
Pertinent Results:
___ 02:30AM   ALT(SGPT)-29 AST(SGOT)-19 ALK PHOS-28* TOT 
BILI-0.3
___ 02:30AM   HCG-80
___ 02:30AM   LACTATE-2.5*
___ 02:30AM   WBC-23.2* RBC-5.60* HGB-17.0* HCT-51.6* 
MCV-92 MCH-30.4 MCHC-32.9 RDW-13.0 RDWSD-43.1
___ 02:30AM   ___ PTT-23.1* ___
___ 02:30AM   PLT COUNT-491*

=========================
TRANSVAGINAL ULTRASOUND

FINDINGS:  
  
The uterus is anteverted and measures 12.1 x 6.8 x 7.2 cm.  The 
endometrium is  heterogenous and measures 29 mm. 
  
The ovaries are enlarged and contain multiple follicles with 
normal blood flow  bilaterally.  There is a moderate amount of 
free fluid. 
  
IMPRESSION:  
  Thickened endometrium with a moderate amount of free fluid.  
Continued 
laboratory followup with repeat ultrasound as necessary is 
recommended, as 
intrauterine pregnancy cannot be confirmed and an ectopic 
pregnancy cannot be  excluded. 

 
Brief Hospital Course:
Ms. ___ presented to the Emergency Department on ___ with 
abdominal pain. She was found to have moderate free fluid in the 
pelvis and laboratory abnormalities consistent with ovarian 
hyperstimulation syndrome including hemoconcentration, 
leukocytosis and ___ (Hct 51.2, WBC 23, Cre 1.2). She was 
admitted to the GYN service and underwent an uncomplicated 
paracentesis yielding 4.3L. Her pain was controlled on oral 
medication, she was ambulating independently and tolerating a 
regular diet. She was discharged home following the procedure in 
satisfactory condition. 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4000mg in one day 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6hr Disp #*60 
Tablet Refills:*1 
2.  Enoxaparin Sodium 40 mg SC Q24HR 
Continue daily until labs normalize and instructed to 
discontinue 
RX *enoxaparin 40 mg/0.4 mL 1 syringe SC once daily Disp #*7 
Syringe Refills:*0 
3.  Endometrin (proGESTerone micronized) 100 mg vaginal BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ovarian hyperstimulation syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for management of 
ovarian hyperstimulation syndrome. After your paracentesis, you 
have recovered well and the team believes you are ready to be 
discharged home. Please call Dr. ___ office ___ 
IVF) with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* Stay hydrated 
* Continue Lovenox as instructed and will discontinue when labs 
normalize
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___